US08293923B2
Step 3: Ethyl 2-amino-1-cyclohexyl-1H-benzo[d]imidazole-5-carboxylate
5 M cyanogen bromide in acetonitrile (2.25 mL) was added to water (25 mL, 1.4 mol) in a 250 mL round bottom flask at room temperature with stirring. To this was added dropwise a solution of 3-amino-4-cyclohexylaminobenzoic acid ethyl ester (2.25 g, 0.00858 mol) in ethanol (25 mL, 0.43 mol) via an additon funnel over 45 minutes. After 3 hours the reaction was concentrated. The residue was dissolved in ethyl acetate and washed with saturated sodium bicarbonate solution then brine. The organic phase was dried over sodium sulfate and concentrated to a dark solid. The solid was triturated with ethanol, filtered and washed with ethanol to give 1.747 g of the title compound as a grayish solid.

reactant | cyanogen bromide | 5 M | N#CBr | CBrN
reactant | water | 1.4 mol, 25 mL | O | H2O
reactant | 3-amino-4-cyclohexylaminobenzoic acid ethyl ester | 0.00858 mol, 2.25 g | C(C)OC(C1=CC(=C(C=C1)NC1CCCCC1)N)=O | C15H22N2O2
reactant | ethanol | 0.43 mol, 25 mL | C(C)O | C2H6O
solvent | acetonitrile | 2.25 mL | C(C)#N | C2H3N
product | Ethyl 2-amino-1-cyclohexyl-1H-benzo[d]imidazole-5-carboxylate | 1.747 g | NC1=NC2=C(N1C1CCCCC1)C=CC(=C2)C(=O)OCC | C16H21N3O2
